US08791147B2
Preparation of 9-ethyl-9H-β-carboline-3-carbaldehyde
To a suspension of lithium aluminium hydride (116 mg, 3.06 mmol, 1 eq) in anhydrous tetrahydrofuran (15 mL) was added at 0° C. under nitrogen a solution of 9-ethyl-9H-β-carboline-3-carboxylic acid ethyl ester (820 mg, 3.06 mmol, 1 eq) in anhydrous tetrahydrofuran (25 mL). The reaction mixture was stirred at 0° C. for 6 h then quenched with a 5% aqueous solution of sodium hydroxide (2.88 mL). The solid formed was filtered, washed with ethyl acetate and dried to afford the title compound, which is used without further purification. Mass Spec m/z=227 [M+H+].

reactant | lithium aluminium hydride | 3.06 mmol, 116 mg, 1 eq | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 9-ethyl-9H-β-carboline-3-carboxylic acid ethyl ester | 3.06 mmol, 820 mg, 1 eq | C(C)OC(=O)C=1N=CC=2N(C3=CC=CC=C3C2C1)CC | C16H16N2O2
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 9-ethyl-9H-β-carboline-3-carbaldehyde | C(C)N1C2=CC=CC=C2C=2C=C(N=CC12)C=O | C14H12N2O
